US08629160B2
2-Bromo-1-(thiophen-3-yl)ethanone (52.2 mg, 0.25 mmol) was added portion-wise to a solution of (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (C19) (100 mg, 0.25 mmol) in EtOAc (2 ml). The reaction was stirred at room temperature for 3 hours. The precipitate was filtered, washed with EtOAc and purified by preparative HPLC (Eluent: CH3CN, H2O) to obtain (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-3-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide (32 mg, 21.0% yield).

reactant | 2-Bromo-1-(thiophen-3-yl)ethanone | 0.25 mmol, 52.2 mg | BrCC(=O)C1=CSC=C1 | C6H5BrOS
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.25 mmol, 100 mg | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-3-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide | 32 mg, 21.0% yield | [Br-].S1C2=C(C(=C1)C(C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C3=CSC=C3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C29H29N2O3S2.BrH/c32-25(21-12-15-35-18-21)16-31-13-10-20(11-14-31)26(17-31)34-29(33)28(30-22-6-2-1-3-7-22)24-19-36-27-9-5-4-8-23(24)27;/h1-9,12,15,18-20,26,28,30H,10-11,13-14,16-17H2;1H/q+1;/p-1/t20?,26-,28?,31?;/m0./s1
